US09023846B2
To a mixture of 60% sodium hydride in mineral oil (769 mg, 19.2 mmol) in ethylene glycol (10 mL) was added 2,6-dichloro-3-nitro-pyridin-4-ylamine (2.00 g, 9.62 mmol) slowly over 5 min. After stirring at room temperature for 16 h, the resulting mixture was treated with saturated NH4Cl (20 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with H2O (2×50 mL), brine (50 mL), and then dried over Na2SO4. The solvent was removed in vacuo and the resulting residue was triturated with hexanes. 2-(4-Amino-6-chloro-3-nitro-pyridin-2-yloxy)-ethanol was obtained as a light yellow solid (by filtration) and washed with hexanes. 1H-NMR (400 MHz, CD3OD) δ: 6.50 (s, 1H), 4.37-4.50 (m, 2H), 3.80-3.93 (m, 2H). Mass Spectrum (LCMS, ESI pos.) Calculated For C7H8ClN3O4: 234.0 (M+H), Measured: 234.0.

reactant | sodium hydride | [H-].[Na+]
reactant | 2,6-dichloro-3-nitro-pyridin-4-ylamine | 9.62 mmol, 2.00 g | ClC1=NC(=CC(=C1[N+](=O)[O-])N)Cl | C5H3Cl2N3O2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
reactant | ethylene glycol | 10 mL | C(CO)O | C2H6O2
product | 2-(4-Amino-6-chloro-3-nitro-pyridin-2-yloxy)-ethanol | NC1=C(C(=NC(=C1)Cl)OCCO)[N+](=O)[O-] | C7H8ClN3O4
